US08563573B2
A mixture of tert-butyl 4-(but-1-ynyl)-6-chloropyridin-3-ylcarbamate (3.5 g, 12.5 mmol) and TBAF (6.65 g, 25 mmol) in THF (60 mL) was heated at reflux for 24 hours. After cooling, the mixture was poured into ice water and extracted with CH2Cl2 (100 mL×3). The combined organic layers was dried over anhydrous Na2SO4 and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (petroleum ether/ethyl acetate, 10/1) to give 2-ethyl-5-chloro-1H-pyrrolo[2,3-c]pyridine (2.0 g, 89%). 1H-NMR (CDCl3, 300 MHz) δ 8.96 (brs, H), 8.46 (s, 1H), 7.44 (s, 1H), 6.24 (s, 1H), 2.89 (q, J=7.5 Hz, 2H), 1.37 (t, J=7.5 Hz, 3H).

reactant | tert-butyl 4-(but-1-ynyl)-6-chloropyridin-3-ylcarbamate | 12.5 mmol, 3.5 g | C(#CCC)C1=C(C=NC(=C1)Cl)NC(OC(C)(C)C)=O | C14H17ClN2O2
reactant | TBAF | 25 mmol, 6.65 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-ethyl-5-chloro-1H-pyrrolo[2,3-c]pyridine | 2.0 g, 89% | C(C)C1=CC=2C(=CN=C(C2)Cl)N1 | C9H9ClN2
